US07652004B2
13-Cyclohexyl-N-(dimethylsulfamoyl)-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide
In a 2 dram vial, 13-Cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid (40 mg, 0.070 mmol) in THF (1 ml) and CDI (23.8 mg, 0.147 mmol) was added to the reaction. The reaction was capped under a nitrogen atmosphere and stirred at room temperature for 1 hr. The reaction was then heated at 60 C for 1 hr, cooled and N,N-Dimethylsulfamide (46.5 mg, 0.375 mmol) was added to the reaction followed by DBU (0.014 ml, 0.092 mmol). The reaction was capped under a nitrogen atmosphere and heated overnight (16 hrs) at 60 C. The reaction was monitored by HPLC and additional N,N-Dimethylsulfamide (22.9 mg, 0.184 mmol) and DBU (0.015 ml, 0.099 mmol) was added and the reaction heated to 70 C under a nitrogen atmosphere for 5 hrs. The reaction mixture was partitioned between 1N aqueous hydrochloric acid and dichloromethane. The organic phase was washed sequentially with 1N aqueous hydrochloric acid and 0.1M aqueous NaH2PO4 and dried over sodium sulfate. Solvent was removed in vacuuo to yield 46 mg of crude product. The title compound was purified on a Shimadzu high pressure liquid chromatography system employing Discovery VP software and interfaced with a SCL-10A controller, SIL-10A autosampler and FRC-10A fraction collector. The sample was dissolved in acetonitrile/DMF (1:1) and purified using a Waters Sunfire Prep C18 OBD, 5 uM 19 mm×100 mm column and monitored using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 25 mL/min, a gradient of 70 solvent A/30% solvent B to 0% solvent A/100% solvent B, a gradient time of 12 minutes with a run time of 20 minutes using % A=10% acetonitrile, 90% water, 0.1% TFA % B=90% acetonitrile, 10% water, 0.1% TFA solvent system. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 1.05-1.28 (m, 1.2H) 1.29-1.62 (m, 3.7H) 1.64-1.84 (m, 4.0H) 1.84-2.20 (m, 4.6H) 2.47 (d, J=14.04 Hz, 0.1H) 2.78-2.88 (m, 1.1H) 3.04 (s, 5.9H) 3.10 (s, 0.9H) 3.35-3.89 (m, 9.0H) 3.91 (s, 3.0H) 4.09 (s, 0.4H) 4.18 (d, J=1.83 Hz, 0.9H) 4.41 (d, J=15.56 Hz, 0.9H) 4.55 (d, J=16.48 Hz, 0.1H) 5.59 (d, J=14.95 Hz, 0.9H) 6.62 (d, J=14.34 Hz, 0.1H) 6.97 (d, J=2.44 Hz, 1.0H) 7.07 (dd, J=8.70, 2.59 Hz, 1.0H) 7.27-7.36 (m, 0.3H) 7.46-7.54 (m, 1.9H) 7.59 (d, J=8.55 Hz, 0.9H) 7.75 (d, J=7.93 Hz, 0.1H) 7.82 (s, 1.0H) 7.87 (d, J=8.54 Hz, 0.9H) 8.15 (s, 0.1H) 8.28-8.35 (m, 0.2H) 8.44 (s, 0.9H) 8.94 (d, J=9.16 Hz, 0.1H) 9.43 (s, 0.9H) 9.88 (s, 0.1H) 12.11 (s, 0.1H). LC-MS retention time 1.40 min; 672 m/z (MH−). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Xterra MS 7u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 13-Cyclohexyl-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | 0.070 mmol, 40 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)O | C33H33N3O6
reactant | CDI | 0.147 mmol, 23.8 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,N-Dimethylsulfamide | 0.375 mmol, 46.5 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | DBU | 0.092 mmol, 0.014 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N,N-Dimethylsulfamide | 0.184 mmol, 22.9 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | DBU | 0.099 mmol, 0.015 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 13-Cyclohexyl-N-(dimethylsulfamoyl)-3-methoxy-6-(4-(4-morpholinylcarbonyl)-1,3-oxazol-5-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 46 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(N=CO2)C(=O)N2CCOCC2)C=C(C=C1)OC)C(=O)NS(N(C)C)(=O)=O | C35H39N5O7S
